US07473790B2
Step 2: 3-Cyclohex-1-enyl-propionic acid:
2N LiOH (3.5 mL) was added to a solution of 3-Cyclohex-1-enyl-propionic acid ethyl ester (0.6 g, 3.4 mmol, from Step 1 dissolved in THF (12 mL) and MeOH (3 mL). The mixture was stirred for 2 h under N2 and then partitioned between 1N HCl and EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated to a clear oil. 1H NMR (CDCl3): δ 1.54 (m, 2H), 1.62 (m, 2H), 1.92 (m, 2H), 1.97 (m, 2H), 2.26 (m, 2H), 2.46 (t, 2H, J=8.3 Hz), 5.44 (s, 1H).

reactant | LiOH | 2N, 3.5 mL | [Li+].[OH-]
reactant | 3-Cyclohex-1-enyl-propionic acid ethyl ester | C(C)OC(CCC1=CCCCC1)=O | C11H18O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | 3-Cyclohex-1-enyl-propionic acid | C1(=CCCCC1)CCC(=O)O | C9H14O2
